US08202873B2
1-[2-(4-Fluorophenyl)-pyridin-3-yl]-piperazine
Dissolve 4-[2-(4-fluorophenyl)-pyridin-3-yl]-piperazine-1-carboxylic acid t-butyl ester (0.9 g, 2.52 mmol) in DCM (25 mL). Add trifluoroacetic acid (8.6 g, 5.8 mL, 75.6 mmol). Stir the mixture at room temperature for 2 hr. Purify by a SCX ion-exchange column to give the title preparation. MS (ES): m/z=258 [M+H].

reactant | 4-[2-(4-fluorophenyl)-pyridin-3-yl]-piperazine-1-carboxylic acid t-butyl ester | 2.52 mmol, 0.9 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C(=NC=CC1)C1=CC=C(C=C1)F | C20H24FN3O2
reactant | trifluoroacetic acid | 75.6 mmol, 5.8 mL, 8.6 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 1-[2-(4-Fluorophenyl)-pyridin-3-yl]-piperazine | FC1=CC=C(C=C1)C1=NC=CC=C1N1CCNCC1 | C15H16FN3
